US09085583B2
To a solution of methyl 2-methyl-1H-indole-3-carboxylate (0.5 g, 2.6 mmol) in N,N-dimethylformamide (20 mL) was added cesium carbonate (1.7 g, 5.2 mmol) and 2-bromobutane (0.71 g, 5.2 mmol), the mixture was stirred at 100° C. under microwave for 1 hour, the mixture was concentrated and purified by column chromatography (silica gel, ethyl acetate/petroleum ether=1:20) to give methyl 1-sec-butyl-2-methyl-1H-indole-carboxylate (141 mg, 22%).

reactant | methyl 2-methyl-1H-indole-3-carboxylate | 2.6 mmol, 0.5 g | CC=1NC2=CC=CC=C2C1C(=O)OC | C11H11NO2
reactant | cesium carbonate | 5.2 mmol, 1.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromobutane | 5.2 mmol, 0.71 g | BrC(C)CC | C4H9Br
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | methyl 1-sec-butyl-2-methyl-1H-indole-carboxylate | 141 mg, 22% | C(C)(CC)N1C(CC2=CC=CC=C12)(C(=O)OC)C | C15H21NO2
